US05498786
(R)-Methyl lactate (0.553 g, 5.31 mol) was carried through the reaction sequence of Example 5 with triflic anhydride (1.03 ml, 6.11 mmol) and 2,6-lutidine (0.74 ml, 6.38 mmol) in 10 ml of CH3CN. Thiophenol (0.73 ml, 6.91 mmol) and TEA (1.93 ml, 13.8 mmol) were added and the workup described in Example 5 followed by purification by silica gel chromatography using 25 to 1 hexane to ethyl acetate as eluent gave (S)-methyl-2-phenylthiopropionate as a clear yellow oil (0.511 g, 2.60 mmol, 49%). [α]D =-165.4° (c=1.2, MeOH). 1H NMR δ7.43 (m, 2H), 7.29 (m, 3H), 3.78 (q, 1H, J =7.12 Hz), 3.65 (s, 3H)), 1.47 (d, 3H, J=7.12 Hz); 13C NMR δ172.87, 133.15, 133.01, 128.92, 128.00, 52.11, 45.07, 17.43.

reactant | (R)-Methyl lactate | 5.31 mol, 0.553 g | C([C@H](O)C)(=O)OC | C4H8O3
reactant | triflic anhydride | 6.11 mmol, 1.03 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2,6-lutidine | 6.38 mmol, 0.74 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | Thiophenol | 6.91 mmol, 0.73 ml | C1(=CC=CC=C1)S | C6H6S
solvent | CH3CN | 10 ml | CC#N | C2H3N
product | (S)-methyl-2-phenylthiopropionate | 2.60 mmol, 0.511 g, 49% | COC([C@@H](C)C1=CC=CC=C1)=S | C10H12OS
